US06995144B2
After dissolving 1.63 g of 2-(1-benzylpiperidin-4-yl)-1-(2-methoxyphenyl)ethanol in 5 ml of dimethylsulfoxide, 4.2 ml of triethylamine was added, a solution of 2.39 g of sulfur trioxide-pyridine complex in dimethylsulfoxide (15 ml) was added dropwise and the mixture was stirred for 30 minutes at room temperature. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain 1.38 g of 1-(1-benzylpiperidin-4-yl)-2-(2-methoxyphenyl)ethanone. After dissolving this in 12 ml of 1,2-dichloroethane, 0.55 ml of 1-chloroethyl chloroformate was added while stirring on ice, and the mixture was heated to reflux for 1 hour. The solvent was distilled off under reduced pressure, 10 ml of methanol was added to the residue and heating to reflux was continued for 30 minutes. The solvent was distilled off under reduced pressure. A 1N sodium hydroxide solution was added to the residue and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain the title compound (750 mg, 64% yield).

reactant | 2-(1-benzylpiperidin-4-yl)-1-(2-methoxyphenyl)ethanol | 1.63 g | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C1=C(C=CC=C1)OC | C21H27NO2
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 1-(1-benzylpiperidin-4-yl)-2-(2-methoxyphenyl)ethanone | 1.38 g | C(C1=CC=CC=C1)N1CCC(CC1)C(CC1=C(C=CC=C1)OC)=O | C21H25NO2
